US09315491B2
(2-Chloro-5-ethoxy-6-morpholin-4-yl-pyrimidin-4-yl)-methanol
NaBH4 (0.64 g, 4 eq.) was added to a stirred solution of 2-chloro-5-ethoxy-6-morpholine-4-yl-pyrimidine-4-carboxylic acid ethyl ester (1.34 g, 1 eq.) in EtOH (20 ml) and the mixture reacted to reflux for 2 h. The mixture was quenched with H2O, the solvent was removed in vacuo, and the residue was extracted with EA, washed with brine, and concentrated to give a product (1.13 g, 97.3%).

reactant | NaBH4 | 0.64 g, 4 eq. | [BH4-].[Na+]
reactant | 2-chloro-5-ethoxy-6-morpholine-4-yl-pyrimidine-4-carboxylic acid ethyl ester | 1.34 g, 1 eq. | C(C)OC(=O)C1=NC(=NC(=C1OCC)N1CCOCC1)Cl | C13H18ClN3O4
solvent | EtOH | 20 ml | CCO | C2H6O
product | (2-Chloro-5-ethoxy-6-morpholin-4-yl-pyrimidin-4-yl)-methanol | 1.13 g, 97.3% | ClC1=NC(=C(C(=N1)CO)OCC)N1CCOCC1 | C11H16ClN3O3
